US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and nicotinoyl chloride, there is obtained ethyl N-(nicotinoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a resin, mass spectrum m/e: M+ 371 (5), 42 (26), 194 (100), 106 (38);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | nicotinoyl chloride | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
product | ethyl N-(nicotinoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C(C1=CN=CC=C1)(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C23H21N3O2
